US04490370
2-Bromo-6-methoxynaphthalene was converted to the 2-lithio derivative by reaction with n-butyllithium. Diethyl oxalate was then reacted with the 2-lithio-6-methoxynaphthalene to afford ethyl α-keto-6-methoxy-naphth-2-ylacetate. The latter compound was reacted with hydroxylamine hydrochloride and sodium acetate to provide ethyl α-hydroxyimino-6-methoxynaphth-2-ylacetate. A solution of 17.55 g of the oxime in 600 ml of methanol containing 5.3 g of zinc metal dust and 135 ml of 50% (v/v) aqueous formic acid was stirred at 0° C. for three hours. After filtering the reaction mixture, the solvent was removed by evaporation to give 10.3 g of ethyl α-amino-α-(6-methoxynaphth-2-yl)acetate.

reactant | 2-Bromo-6-methoxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | Diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-lithio-6-methoxynaphthalene | [Li]C1=CC2=CC=C(C=C2C=C1)OC
product | ethyl α-keto-6-methoxy-naphth-2-ylacetate | O=C(C(=O)OCC)C1=CC2=CC=C(C=C2C=C1)OC | C15H14O4
